US06207434B1
To 700 μl of the fermentation broth of Streptomyces anulatus No. 4811 obtained in Example 1-1 was added 100 μl of an aqueous solution of Substance FR901379 (100 mg/ml) (10 mg as Substance FR901379; 8.35 μmol) together with 100 μl of methanol and 100 μl of buffer (0.5 M potassium dihydrogen phosphate-disodium hydrogen phosphate buffer; pH 6.0), and the reaction was carried out at 30° C. for 30 minutes. The reaction was then stopped with 1 ml of 4% acetic acid and following addition of 2 ml of methanol, the mixture was filtered through a membrane filter (0.45 μm) to remove the macromolecular protein and other fraction and subjected to HPLC and the acylase activity of the skeletal substance FR179642 produced was monitored and assayed at 210 nm.

reactant | FR901379 | 8.35 μmol, 10 mg | CCCCCCCCCCCCCCCC(=O)N[C@H]1C[C@H]([C@@H](NC(=O)[C@@H]2[C@H]([C@H](CN2C(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H]3C[C@H](CN3C(=O)[C@@H](NC1=O)[C@@H](C)O)O)[C@@H]([C@H](C=4C=CC(=C(C4)OS(=O)(=O)O)O)O)O)[C@@H](CC(=O)N)O)C)O)O)O | C51H82N8O21S
reactant | potassium dihydrogen phosphate disodium hydrogen phosphate | 0.5 M | P(=O)(O)(O)[O-].[K+].P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 100 μl | CO | CH4O
product | FR179642 | C[C@H]1CN2[C@@H]([C@H]1O)C(=O)N[C@@H]([C@@H](C[C@@H](C(=O)N[C@H](C(=O)N3C[C@@H](C[C@H]3C(=O)N[C@H](C(=O)N[C@H](C2=O)[C@@H](CC(=O)N)O)[C@@H]([C@H](C4=CC(=C(C=C4)O)OS(=O)(=O)O)O)O)O)[C@@H](C)O)N)O)O | C35H52N8O20S
